US06468998B1
1-Adamantanesulfinyl chloride and (S)-3-amino-1-(2-phenylethyl)pyrrolidine were reacted under the same conditions as in Example 53 to give (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)-1-adamantanesulfinamide.

reactant | 1-Adamantanesulfinyl chloride | C12(CC3CC(CC(C1)C3)C2)S(=O)Cl | C10H15ClOS
reactant | (S)-3-amino-1-(2-phenylethyl)pyrrolidine | N[C@@H]1CN(CC1)CCC1=CC=CC=C1 | C12H18N2
product | (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)-1-adamantanesulfinamide | C1(=CC=CC=C1)CCN1CC(CC1)N[S@@](=O)C12CC3CC(CC(C1)C3)C2 | C22H32N2OS
